US06010981
A) 3-Amino-2-methyl-4-methylsulfonylbenzoic Acid
A mixture of 79.0 g (grams) (320 mmol (millimole)) of 3-chloro-2-methyl-4-methylsulfonylbenzoic acid, 1.0 g (12.6 mmol) of cupric oxide, and 500 mL (milliliter) of concentrated aqueous ammonia was heated at 180° C. for 17 hours in a stirred Parr reactor. The resulting dark mixture was concentrated by evaporation under reduced pressure. The residue was acidified with 2N aqueous hydrochloric acid and the resulting mixture was extracted with ethyl acetate. The extract was filtered and concentrated by evaporation under reduced pressure. The solid residue was mixed with hexane, recovered by filtration, and dried to obtain 50.0 g (68 percent of theory) of the title acid compound as a light tan powder melting at 197-198° C.

reactant | 3-chloro-2-methyl-4-methylsulfonylbenzoic acid | 320 mmol, 79.0 g | ClC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H9ClO4S
reactant | ammonia | 500 mL | N | H3N
product | 3-Amino-2-methyl-4-methylsulfonylbenzoic Acid | NC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C | C9H11NO4S
